US07318957B2
NH3/Dodecylamine/Hexane
A mixture solution of hexane and dodecylamine, the latter of an amount that is 10% of the former, was added to the semiconductor nanoparticle aqueous solution prepared as in Example 1-2 to a volume ratio of one to ten. An equal amount of methanol was further added to the aqueous solution. After violently stirring for some time, it was confirmed that an optically transparent yellow portion migrated from an aqueous phase to an organic phase. Thereafter, centrifugation was performed and then the aqueous phase and the organic phase were separated. The recovered organic phase was diluted by adding hexane to the same absorbance as that of the aqueous solution prior to migration. The semiconductor nanoparticles that had migrated to the hexane phase still maintained high-emission properties.

reactant | hexane | CCCCCC | C6H14
reactant | dodecylamine | C(CCCCCCCCCCC)N | C12H27N
solvent | methanol | CO | CH4O
product | NH3 Dodecylamine Hexane | N.C(CCCCCCCCCCC)N.CCCCCC | InChI=1S/C12H27N.C6H14.H3N/c1-2-3-4-5-6-7-8-9-10-11-12-13;1-3-5-6-4-2;/h2-13H2,1H3;3-6H2,1-2H3;1H3
